US05665888
Synthesis of (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride
Dimethylformamide (1.6 g, 22 mmol) and 10 ml of tetrahydrofuran were mixed, to which 3.06 g (24 mmol) of oxalyl chloride were added dropwise under ice-cooling. After completion of the dropwise addition, the resulting mixture was stirred for further 10 minutes and was then cooled to -15° C. To the mixture so obtained, were added 2.0 g (10 mmol) of (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid and 10 ml of tetrahydrofuran, followed by stirring for 80 minutes. The reaction mixture was concentrated under reduced pressure. Slurry was collected by filtration under a nitrogen gas stream and then dried at room temperature, whereby 1.32 g of the title compound were obtained (yield: 43%).

reactant | Dimethylformamide | 22 mmol, 1.6 g | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 24 mmol, 3.06 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid | 10 mmol, 2.0 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride | 1.32 g, yield: 43% | Cl.CN(C)C=NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | InChI=1S/C9H11ClN4O2S.ClH/c1-14(2)5-11-9-12-6(4-17-9)7(8(10)15)13-16-3;/h4-5H,1-3H3;1H/b11-5?,13-7-;
